US07153863B2
To a cold (0° C.) solution of 4-(4-methylpent-1-ynyl)-2-(methylthio)pyrimidine (2.5 g, 12 mmol) in acetonitrile (40 mL) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (2.7 mL, 18 mmol) and 1-aminopyridinium iodide (3.49 g, 15.7 mmol). The resultant dark solution was allowed to warm to room temperature and stirred vigorously. The mixture was heated to 50° C. for 18 h then cooled to room temperature. Water was added and the mixture concentrated in vacuo. The residue was partitioned between water and ether. The organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics were dried over magnesium sulfate. Filtration and concentration followed flash chromatography on silica gel (6:1 to 4:1 to 2:1 hexane-ethyl acetate) provided 2-isobutyl-3-[2-(methylthio)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine (2.0 g, 56%) as a yellow solid. 1H NMR (CDCl3) δ 8.51–8.48 (m, 2H), 8.36 (d, 1H), 7.35 (t, 1H), 7.19 (d, 1H), 6.91 (t, 1H), 3.04 (d, 2H), 2.68 (s, 3H), 2.20 (m, 1H), 1.03 (d, 6H); MS m/z 299 (M+1).

reactant | 4-(4-methylpent-1-ynyl)-2-(methylthio)pyrimidine | 12 mmol, 2.5 g | CC(CC#CC1=NC(=NC=C1)SC)C | C11H14N2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 18 mmol, 2.7 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 1-aminopyridinium iodide | 15.7 mmol, 3.49 g | [I-].N[N+]1=CC=CC=C1
reactant | Water | O | H2O
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 2-isobutyl-3-[2-(methylthio)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine | 2.0 g, 56% | C(C(C)C)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)SC | C16H18N4S
